US08729081B2
The mixture of Azepane (2.3 mL), 2-(3-bromopropyl)isoindoline-1,3-dione (5.4 g) and potassium carbonate (5.5 g) in acetone (50 mL) was stirred at room temperature overnight. The solid was filtered and the filtrate was concentrated to provide 2-(3-(azepan-1-yl)propyl)isoindoline-1,3-dione, used without purification.

reactant | Azepane | 2.3 mL | N1CCCCCC1 | C6H13N
reactant | 2-(3-bromopropyl)isoindoline-1,3-dione | 5.4 g | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-(3-(azepan-1-yl)propyl)isoindoline-1,3-dione | N1(CCCCCC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H22N2O2
